US06051712
A solution of 47 mg (0.105 mmol) of tert-butyl (3RS,4RS)-4-(4-aminomethyl-phenyl)-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate in 2 ml of methylene chloride was treated with 18 μl (1 2.7 mg, 0.1 26 mmol, 1.2 eq.) of triethylamine and cooled to 0° C. 15 μl (20.4 mg, 0.116 mmol, 1.1 eq.) of benzenesulphonyl chloride were added dropwise, the mixture was warmed to room temperature and stirred for 1 hour. The reaction mixture was partitioned between methylene chloride and 5% sodium hydrogen carbonate solution, the organic phase was dried over magnesium sulphate and finally the solvent was removed under reduced pressure. There were obtained 47 mg of crude tert-butyl (3RS,4RS)-4-[4-(phenylsulphonyl-amino-methyl)-phenyl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate, which was used in the following step without further purification and characterization.

reactant | tert-butyl (3RS,4RS)-4-(4-aminomethyl-phenyl)-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | 0.105 mmol, 47 mg | NCC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C28H34N2O3
reactant | triethylamine | 26 mmol, 18 μl, 2.7 mg, 1.2 eq. | C(C)N(CC)CC | C6H15N
reactant | benzenesulphonyl chloride | 0.116 mmol, 15 μl, 20.4 mg, 1.1 eq. | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl (3RS,4RS)-4-[4-(phenylsulphonyl-amino-methyl)-phenyl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | 47 mg | C1(=CC=CC=C1)S(=O)(=O)C(C1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1)N | C34H38N2O5S
